US07683091B2
N-[(5-{[(4-tert-butylphenyl)sulfonyl]amino}-1H-indol-1-yl)acetyl]-L-leucine
The title compound was prepared from methyl N-[(5-nitro-1H-indol-1-yl)acetyl]-L-leucinate and 4-tert-butylphenyl sulfonyl chloride following the procedures of Example 10 Step 4 and Step 5: MS (ESI) m/z 500; MS (ESI) m/z 498.

reactant | methyl N-[(5-nitro-1H-indol-1-yl)acetyl]-L-leucinate | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC(=O)N[C@@H](CC(C)C)C(=O)OC | C17H21N3O5
reactant | 4-tert-butylphenyl sulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | N-[(5-{[(4-tert-butylphenyl)sulfonyl]amino}-1H-indol-1-yl)acetyl]-L-leucine | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC(=O)N[C@@H](CC(C)C)C(=O)O | C26H33N3O5S
